US04478749
(A) (S)-P-[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]-N-propylphosphonamidic acid, methyl ester
(S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-azetidinone (5.0 g) was dissolved in dry tetrahydrofuran (140 ml) and cooled to -78° C. in a dry ice-acetone bath under a nitrogen atmosphere. This mixture was treated with 1 equivalent of a 1.56 M solution of n-butyl lithium in hexane (14.2 ml) and was stirred for 30 minutes at -78° C. Methyl dichlorophosphate (3.38 g) was added and the mixture stirred for 1 hour at -78° C., followed by the addition of 2 equivalents of distilled n-propylamine (2.68 g) and stirring for an additional 2 hours at -78° C. The reaction was treated with 0.5 M phosphate buffer pH 5.5 (150 ml), allowed to warm to 5° C., and extracted with three 125 ml portions of ethyl acetate. The extracts were combined, dried over anhydrous Na2SO4 and the solvent removed in vacuo yielding an oily residue. The residue was dissolved in acetonitrile (60 ml) and applied to 500 g column of silica gel eluting with acetonitrile. Removal of solvent in vacuo yielded 4.6 g of the title compound, melting point 121°-123° C.

reactant | (S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-azetidinone | 5.0 g | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | Methyl dichlorophosphate | 3.38 g | P(=O)(OC)(Cl)Cl | CH3Cl2O2P
reactant | n-propylamine | 2.68 g, 2 equivalents | C(CC)N | C3H9N
reactant | phosphate | 0.5 M, 150 ml, pH 5.5 | P(=O)([O-])([O-])[O-]
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | hexane | 14.2 ml | CCCCCC | C6H14
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | (S)-P-[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]-N-propylphosphonamidic acid, methyl ester | 4.6 g | C1(=CC=CC=C1)COC(=O)NC1C(N(C1)[P@](OC)(=O)NCCC)=O | C15H22N3O5P
